2130-06-15 06:54:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR
   Mr. [**Known lastname **] is a 68 year old gentleman with relapsed Hodgkin's disease
   admitted with fever, transferred to the ICU for Afib with RVR.
   24 Hour Events:
   Patient was admitted with neutropenic fever and transferer to the ICU
   for Afib with RVR.  By the time he came to the ICU he was in NSR with
   normal BP and HR.
   no events overnight.
   He received 1 unit of PRBc for Hct 23 and Hct 22 this am.
   Onc fellow requested adding digoxin if cardiology agrees to better
   control his Afib.
   Subjective:  Patient reports difficulty breathing.  He describes
   requiring an extra effort to inhale.  The albuterol is not helpful.  He
   states that in the past he has had this SOB and advair seemed to help.
   +coughing.  Denies DOE.  SOB worse when lying flat.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-6-14**] 08:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-15**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 74 (74 - 92) bpm
   BP: 119/69(80) {103/46(60) - 145/76(85)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
           Total In:
                                                                  2,223 mL
                                                                    763 mL
   PO:
                                                                    360 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    213 mL
                                                                    188 mL
   Blood products:
   375 mL
   Total out:
                                                                  2,250 mL
                                                                    520 mL
   Urine:
                                                                  1,000 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -28 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   Gen: a&o x3, pleasant conversant, nad
   Lung:crackles bilat at bases
   CV: RRR, s1 & s2 nl, no m/r/g
   Abd;+bs, soft, nt, nd, no masses.
   ext: warm, 2+ radial pulses, trace edema
   Labs / Radiology
   86 K/uL
   8.4 g/dL
   102 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.5 mEq/L
   14 mg/dL
   108 mEq/L
   143 mEq/L
   22.5 %
   39.8 K/uL
        [image002.jpg]
                             [**2130-6-14**]  11:14 PM
                             [**2130-6-15**]  05:22 AM
   WBC
   43.4
   39.8
   Hct
   23.3
   22.5
   Plt
   104
   86
   Cr
   1.1
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   132
   102
   Other labs: PT / PTT / INR:15.1/25.6/1.3,
   CK / CKMB / Troponin-T:94/6/<0.01,  -- negative x2
   ALT / AST:31/47, Alk Phos / T Bili:171/0.6,
    Differential-Neuts:82.0 %, Band:5.0 %, Lymph:1.0 %, Mono:2.0 %,
   Eos:0.0 %,
   Albumin:3.7 g/dL, LDH:788 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**2130-6-13**] -Borderline interstitial edema which cleared from
   [**6-4**] to [**6-12**] has
   recurred. Mild azygous distention suggests volume overload. There are
   no
   lung findings to suggest pneumonia. Heart size is normal and there is
   no
   pleural effusion. Streaky opacities at the left base are probably
   atelectasis.
   CTA 716/08 - no PE (prelim read)
   Microbiology: blood cx x2 - pending
   urine cx
 pending
   EKG x2 done in ICU
 NSR, no signs of ischemia or infarct.
   Assessment and [**Last Name 440**]
   PROBLEM LIST:
 ATRIAL FIBRILLATION (AFIB)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
   Assessment & Plan:
   Mr. [**Known lastname **] is a 68 year old gentleman with relapsed Hodgkin's disease
   admitted with fever, transferred to the ICU for Afib with RVR.
   #Afib with RVR - Asymptomatic with HR in 150's.  Converted back to
   sinus with rate in the 80's prior to transfer to the ICU after getting
   20mg IV diltiazem on the floor.  No hypotension in response to IV
   dilt.   He has been prone to paroxysms of atrial fibrillation in the
   setting of chemotherapy, volume overload in the past.  BMT team
   concerned for possible pulmonary process such as PE as cause for acute
   afib given elevated lactate, LDH and hypoxia, however prelim report of
   CTA negative.  He may benefit from antiarrhythmic therapy to better
   control and prevent his paroxysms of Afib.  Anemia could also be
   contributing to current Afib given HCT of only 23 and hypoxia.  Was
   seen by Dr. [**Last Name (STitle) **] in cardiology clinic recently who felt that he
   may benefit from metoprolol if not contraindicated from a pulmonary
   stand point.
   -IV diltiazem 10-20mg prn for Afib with RVR
   -continue po diltiazem in the meantime
   -will discuss adding digoxin vs metoprolol with Dr. [**Last Name (STitle) **].
   -Check cardiac enzymes
 neg x2.  will obtain 3^rd set.
   -f/u repeat HCT, consider transfusing for HCT <25  -- will transfuse 1
   unit of PRBC with lasix 20 mg IV as patient is already volume
   overloaded.
   -consider PFT's to further characterize underlying lung dz
   -will walk patient around and try to precipitate Afib while in the ICU.
   #Hypoxia - new asymptomatic hypoxia of unclear etiology with [**Name (NI) 3626**] of 52
   on ABG today in the setting of Afib with RVR.  BMT team concerned for
   pulmonary embolism given elevated lactate, new hypoxia and concern for
   L > R le swelling.  Preliminary report of CTA negative for PE.  Also
   concerning for possible pulmonary infection such as PCP given elevated
   LDH and h/o PCP and recent [**Name9 (PRE) 3223**] however CXR and CT unremarkable and
   has been on PCP [**Name Initial (PRE) 1374**].  No significant pulmonary edema,
   infiltrate or pleural effusion on CT scan.  Could be exacerbated by
   anemia with HCT of 23 on admission in the setting of pulmonary
   fibrosis.
   -continue O2 by NC as needed
   -f/u final report of CTA
   -add on B-glucan to eval for PCP
   [**Name9 (PRE) 3643**] PRN, will add advair.
   # Fever - patient is s/p ICE on [**2130-6-2**], last granulocyte count on [**6-9**]
   was 30, has been given neulasta in the meantime with WBC count up to
   23.  No localizing symptoms or signs to indicate pneumonia or UTI.  CXR
   and CTA unremarkable.  Has been treated with cefepime for febrile
   neutropenia by the BMT service.
   -f/u blood and urine cultures
   -continue cefepime for the time being
   -continue levofloxacin which he has been on since recent discharge
   -continue bactrim 3x/wk for PCP prophylaxis
   [**Name9 (PRE) 1710**] overnight will follow up with onc re: when to d/c abx.
   #Anemia - possibly due to recent chemotherapy with HCT down to 23 from
   26 on admission.  No evidence of blood loss at this time however will
   monitor closely.
   -repeat CBC
   -transfuse for HCT >25 given new hypoxia and Afib
 give 1 unit of PRBC
   now.  And check Hct later today.
   -transfuse for PLT <[**9-28**]
   -guaiac stools
   -active type and screen
   .
   #Recurrant Hodgkin's Lymphoma -  s/p cycle #1 of ICE on [**2130-6-2**]. Given
   neulasta on [**2130-6-10**] for post chemo neutropenia.
   - further treatment plan per primary BMT team
   #FEN: regular diet, post contrast hydration, replete lytes prn
   #Access 1 PIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-6-14**] 06:13 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to floor after we have a plan with cardiology to
   better control Afib.

2130-06-16 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-6-15**] 07:27 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2130-6-16**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-16**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.1
   HR: 136 (66 - 136) bpm
   BP: 117/72(81) {100/46(60) - 137/83(93)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
                  Total In:
                                                                  2,524 mL
                  PO:
                                                                  1,060 mL
                  TF:
   IVF:
                                                                    714 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,620 mL
                                                                    770 mL
   Urine:
                                                                  3,620 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,096 mL
                                                                   -770 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   9.8 g/dL
   92 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   145 mEq/L
   27.3 %
   35.3 K/uL
        [image002.jpg]
                             [**2130-6-14**]  11:14 PM
                             [**2130-6-15**]  05:22 AM
                             [**2130-6-15**]  03:52 PM
                             [**2130-6-16**]  06:22 AM
   WBC
   43.4
   39.8
   35.3
   Hct
   23.3
   22.5
   31.0
   27.3
   Plt
   104
   86
   134
   Cr
   1.1
   1.0
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   132
   102
   92
   Other labs: PT / PTT / INR:15.1/25.6/1.3, CK / CKMB /
   Troponin-T:124/7/<0.01, ALT / AST:31/47, Alk Phos / T Bili:171/0.6,
   Differential-Neuts:82.0 %, Band:5.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Albumin:3.7 g/dL, LDH:788 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   68 year old gentleman with relapsed Hodgkin's disease admitted with
   fever, transferred to the ICU for Afib with RVR.
   #Afib with RVR - Asymptomatic with HR in 150's.  Converted back to
   sinus with rate in the 80's prior to transfer to the ICU after getting
   20mg IV diltiazem on the floor.  No hypotension in response to IV
   dilt.   He has been prone to paroxysms of atrial fibrillation in the
   setting of chemotherapy, volume overload in the past.  BMT team
   concerned for possible pulmonary process such as PE as cause for acute
   afib given elevated lactate, LDH and hypoxia, however prelim report of
   CTA negative.  He may benefit from antiarrhythmic therapy to better
   control and prevent his paroxysms of Afib.  Anemia could also be
   contributing to current Afib given HCT of only 23 and hypoxia.  Was
   seen by Dr. [**Last Name (STitle) **] in cardiology clinic recently who felt that he
   may benefit from metoprolol if not contraindicated from a pulmonary
   stand point.
   -IV diltiazem 10-20mg prn for Afib with RVR
   -continue po diltiazem in the meantime
   -will discuss adding digoxin vs metoprolol with Dr. [**Last Name (STitle) **].
   -Check cardiac enzymes
 neg x2.  will obtain 3rd set.
   -f/u repeat HCT, consider transfusing for HCT <25  -- will transfuse 1
   unit of PRBC with lasix 20 mg IV as patient is already volume
   overloaded.
   -consider PFT's to further characterize underlying lung dz
   -will walk patient around and try to precipitate Afib while in the ICU.
   #Hypoxia - new asymptomatic hypoxia of unclear etiology with [**Name (NI) 3626**] of 52
   on ABG today in the setting of Afib with RVR.  BMT team concerned for
   pulmonary embolism given elevated lactate, new hypoxia and concern for
   L > R le swelling.  Preliminary report of CTA negative for PE.  Also
   concerning for possible pulmonary infection such as PCP given elevated
   LDH and h/o PCP and recent [**Name9 (PRE) 3223**] however CXR and CT unremarkable and
   has been on PCP [**Name Initial (PRE) 1374**].  No significant pulmonary edema,
   infiltrate or pleural effusion on CT scan.  Could be exacerbated by
   anemia with HCT of 23 on admission in the setting of pulmonary
   fibrosis.
   -continue O2 by NC as needed
   -f/u final report of CTA
   -add on B-glucan to eval for PCP
   [**Name9 (PRE) 3643**] PRN, will add advair.
   # Fever - patient is s/p ICE on [**2130-6-2**], last granulocyte count on [**6-9**]
   was 30, has been given neulasta in the meantime with WBC count up to
   23.  No localizing symptoms or signs to indicate pneumonia or UTI.  CXR
   and CTA unremarkable.  Has been treated with cefepime for febrile
   neutropenia by the BMT service.
   -f/u blood and urine cultures
   -continue cefepime for the time being
   -continue levofloxacin which he has been on since recent discharge
   -continue bactrim 3x/wk for PCP prophylaxis
   [**Name9 (PRE) 1710**] overnight will follow up with onc re: when to d/c abx.
   #Anemia - possibly due to recent chemotherapy with HCT down to 23 from
   26 on admission.  No evidence of blood loss at this time however will
   monitor closely.
   -repeat CBC
   -transfuse for HCT >25 given new hypoxia and Afib
 give 1 unit of PRBC
   now.  And check Hct later today.
   -transfuse for PLT <[**9-28**]
   -guaiac stools
   -active type and screen
   .
   #Recurrant Hodgkin's Lymphoma -  s/p cycle #1 of ICE on [**2130-6-2**]. Given
   neulasta on [**2130-6-10**] for post chemo neutropenia.
   - further treatment plan per primary BMT team
   #FEN: regular diet, post contrast hydration, replete lytes prn
   #Access 1 PIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-6-15**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-06-16 11:21:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transient recurrent tachycardia this morning-Atrial Fibrillation
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-6-16**] 08:54 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2130-6-16**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: No(t) Cough
   Flowsheet Data as of  [**2130-6-16**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 73 (66 - 136) bpm
   BP: 118/63(74) {100/46(60) - 137/83(93)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,524 mL
                                                                    100 mL
   PO:
                                                                  1,060 mL
             TF:
   IVF:
                                                                    714 mL
                                                                    100 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,620 mL
                                                                  1,520 mL
   Urine:
                                                                  3,620 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,096 mL
                                                                 -1,420 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   134 K/uL
   86 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.4 mEq/L
   11 mg/dL
   107 mEq/L
   146 mEq/L
   27.3 %
   35.3 K/uL
        [image002.jpg]
                             [**2130-6-14**]  11:14 PM
                             [**2130-6-15**]  05:22 AM
                             [**2130-6-15**]  03:52 PM
                             [**2130-6-16**]  06:22 AM
   WBC
   43.4
   39.8
   35.3
   Hct
   23.3
   22.5
   31.0
   27.3
   Plt
   104
   86
   134
   Cr
   1.1
   1.0
   1.1
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   132
   102
   92
   86
   Other labs: PT / PTT / INR:15.2/25.5/1.3, CK / CKMB /
   Troponin-T:124/7/<0.01, ALT / AST:31/47, Alk Phos / T Bili:171/0.6,
   Differential-Neuts:82.0 %, Band:5.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Albumin:3.7 g/dL, LDH:788 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   71 yo male admit with A-Fib and RVR.  In discussion with Dr. [**Last Name (STitle) **]
   have moved to goal of stabilization of HCT and gentle diuresis.
 ATRIAL FIBRILLATION (AFIB)
   -Dilt XR 120mg/d
   -Telemetry
   -Dilt IV PRN
   -Goals of mild diuresis and mild increase of HCT achieved but recurrent
   A-Fib seen this morning--will need to see if we can optimize the
   treatment and would favor further input from Dr. [**Last Name (STitle) **] to further
   rec's--perhaps increased long acting Dilt may be best intervention.
   -In interim will maintain Dilt at 120mg and diuresis this morning.
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   -Allopurinol
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   -Cefepime/Levo in the setting of neurtopenia
   -Batrim TIW
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-6-15**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2130-06-17 07:53:00 Physician Resident Progress Note
Chief Complaint: Afib w/ RVR
   24 Hour Events:
   L LE duplex U/S neg for DVT
   Had a brief episode (sec-min) of Afib w/ HR 120s assoc. w/ palpitations
   but normotensive and spontaneously resolved
   Per cards, dilt CR incr. to 180 mg PO daily
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-6-16**] 08:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies fever, chills, CP, SOB, palpitations
   Flowsheet Data as of  [**2130-6-17**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 60 (55 - 104) bpm
   BP: 123/64(79) {98/48(60) - 128/83(95)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    100 mL
                  PO:
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                    700 mL
   Urine:
                                                                  3,215 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,115 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   Physical Examination
   GEN: Awake, alert, NAD
   CV: RRR nl S1S2 m/r/g
   PULM: bibasilar crackles, no wheeze
   ABD: soft, NTND +BS
   EXT: warm, dry; tr LE pitting edema L>R; nonerythematous, nontender
   Labs / Radiology
   179 K/uL
   9.5 g/dL
   88 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   144 mEq/L
   26.3 %
   38.3 K/uL
        [image002.jpg]
                             [**2130-6-14**]  11:14 PM
                             [**2130-6-15**]  05:22 AM
                             [**2130-6-15**]  03:52 PM
                             [**2130-6-16**]  06:22 AM
                             [**2130-6-17**]  04:04 AM
   WBC
   43.4
   39.8
   35.3
   38.3
   Hct
   23.3
   22.5
   31.0
   27.3
   26.3
   Plt
   104
   86
   134
   179
   Cr
   1.1
   1.0
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   132
   102
   92
   86
   88
   Other labs: PT / PTT / INR:15.2/25.5/1.3, CK / CKMB /
   Troponin-T:124/7/<0.01, ALT / AST:31/47, Alk Phos / T Bili:171/0.6,
   Differential-Neuts:82.0 %, Band:5.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Albumin:3.7 g/dL, LDH:788 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   68 y/o M with recurrent Hodgkin
s lymphoma a/w neutropenic fever now
   resolved, transferred to the ICU for Afib with RVR.
   .
   #Afib
 less frequent runs of tachycardia as volume status improves
   (-2.7L LOS); normotensive during epidoses of RVR, responds to IV dilt;
   long-acting CCB uptitrated per cards
   -cont. dilt CR 180 mg daily; IV dilt PRN RVR if doesn
t spontaneously
   resolve
   -gentle diuresis to improve atrial size; volume goal: -500 to -1000
   -may need full pulm eval prior to adding B-blocker, although PFT
s [**5-7**]
   did not show evidence of obstructive disease
   -no evidence of PE by CT
   .
   #Neutropenic fever
 no longer neutropenic; afebrile; no focal symptoms
   to suggest focus, culture data unrevealing
   -empiric cov
g w/ cefepime, levo (day 4); will defer duration of tx to
   BMT team
   -bactrim for PCP [**Name Initial (PRE) 1512**]; B-glucan assay pending
   .
   #Anemia
 s/p 2 U PRBC with stable Hct; no s/sx bleeding
   -follow, x-fuse < 25%
   -guaiac stools
   -active T&S
   .
   #Recurrent Hodgkin's Lymphoma -  s/p cycle #1 of ICE on [**2130-6-2**].
   Neulasta [**6-10**]
   - further treatment plan per primary BMT team
   .
   #F/E/N:
   -regular diet
   -repleted K
   -volume goal -500 to -1000
   .
   #Access 1 PIV
   ICU Care
   Nutrition: reg diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2130-6-16**] 05:50 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Code status: Full code
   Disposition: Stable for transfer to BMT service

2130-06-17 12:08:00 Physician Attending Progress Note
Chief Complaint: recurrent atrial fibrillation
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   24 Hour Events:
   Reverted to NSR
   --brief episode afib with rates in 120's--resolved spont
   diltiazem dose increased to 180
   R LE doppler for le edema
neg for dvt
 CALLED OUT
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-6-16**] 08:54 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-17**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 80 (54 - 104) bpm
   BP: 129/68(83) {98/48(60) - 129/83(95)} mmHg
   RR: 24 (14 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    100 mL
                  PO:
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                    850 mL
   Urine:
                                                                  3,215 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,115 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, thin M, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished at bases: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender:
   Extremities: Right: trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  without jaundice/rash
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful
   Labs / Radiology
   9.5 g/dL
   179 K/uL
   88 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   144 mEq/L
   26.3 %
   38.3 K/uL
        [image002.jpg]
                             [**2130-6-14**]  11:14 PM
                             [**2130-6-15**]  05:22 AM
                             [**2130-6-15**]  03:52 PM
                             [**2130-6-16**]  06:22 AM
                             [**2130-6-17**]  04:04 AM
   WBC
   43.4
   39.8
   35.3
   38.3
   Hct
   23.3
   22.5
   31.0
   27.3
   26.3
   Plt
   104
   86
   134
   179
   Cr
   1.1
   1.0
   1.1
   1.0
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   132
   102
   92
   86
   88
   Other labs: PT / PTT / INR:15.2/25.5/1.3, CK / CKMB /
   Troponin-T:124/7/<0.01, ALT / AST:31/47, Alk Phos / T Bili:171/0.6,
   Differential-Neuts:82.0 %, Band:5.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Albumin:3.7 g/dL, LDH:788 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Imaging: no new film
   Microbiology: no new results
   Assessment and Plan
   71 yo male w/  recurrent follicular lymphoma c/b febrile neutropenia
   transferred to ICU with recurrent A-Fib w/ RVR
 ATRIAL FIBRILLATION (AFIB)
   EP following
   Volume status better optimized s/p prbc transfusion/diuresis
   Dilt XR increased to 180 mg/d,
   Dilt IV PRN
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Per BMT  service
 HYPOXEMIA
   Resolved with diuresis, cta neg,
   Stable on RA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
febrile
   neutropenia
   Neutropenia resolved, remains af
   Continuing Cefepime/Levo per BMT course, day 4
   Bactrim TIW prophylaxis
 ANEMIA, OTHER
   Hcts remain stable. without evidence of active bleeding
   Monitor
   Keep t and screen
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:  Comments: not needed
   Lines:
   20 Gauge - [**2130-6-16**] 05:50 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Oob)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable for floor transfer
   Total time spent: 35 minutes

2130-06-18 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-6-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 59 (57 - 85) bpm
   BP: 99/44(57) {95/44(57) - 134/72(85)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    580 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    200 mL
   Urine:
                                                                  1,150 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   9.7 g/dL
   105 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   26.7 %
   41.5 K/uL
        [image002.jpg]
                             [**2130-6-14**]  11:14 PM
                             [**2130-6-15**]  05:22 AM
                             [**2130-6-15**]  03:52 PM
                             [**2130-6-16**]  06:22 AM
                             [**2130-6-17**]  04:04 AM
                             [**2130-6-18**]  03:54 AM
   WBC
   43.4
   39.8
   35.3
   38.3
   41.5
   Hct
   23.3
   22.5
   31.0
   27.3
   26.3
   26.7
   Plt
   104
   86
   134
   179
   208
   Cr
   1.1
   1.0
   1.1
   1.0
   1.0
   0.9
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   132
   102
   92
   86
   88
   105
   Other labs: PT / PTT / INR:15.2/25.5/1.3, CK / CKMB /
   Troponin-T:124/7/<0.01, ALT / AST:31/47, Alk Phos / T Bili:171/0.6,
   Differential-Neuts:82.0 %, Band:5.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %, Albumin:3.7 g/dL, LDH:788 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   68 y/o M with recurrent Hodgkin
s lymphoma a/w neutropenic fever now
   resolved, transferred to the ICU for Afib with RVR.
   .
   #Afib
 less frequent runs of tachycardia as volume status improves
   (-2.7L LOS); normotensive during epidoses of RVR, responds to IV dilt;
   long-acting CCB uptitrated per cards
   -cont. dilt CR 180 mg daily; IV dilt PRN RVR if doesn
t spontaneously
   resolve
   -gentle diuresis to improve atrial size; volume goal: -500 to -1000
   -may need full pulm eval prior to adding B-blocker, although PFT
s [**5-7**]
   did not show evidence of obstructive disease
   -no evidence of PE by CT
   .
   #Neutropenic fever
 no longer neutropenic; afebrile; no focal symptoms
   to suggest focus, culture data unrevealing
   -empiric cov
g w/ cefepime, levo (day 4); will defer duration of tx to
   BMT team
   -bactrim for PCP [**Name Initial (PRE) 1512**]; B-glucan assay pending
   .
   #Anemia
 s/p 2 U PRBC with stable Hct; no s/sx bleeding
   -follow, x-fuse < 25%
   -guaiac stools
   -active T&S
   .
   #Recurrent Hodgkin's Lymphoma -  s/p cycle #1 of ICE on [**2130-6-2**].
   Neulasta [**6-10**]
   - further treatment plan per primary BMT team
   .
   #F/E/N:
   -regular diet
   -repleted K
   -volume goal -500 to -1000
   .
   #Access 1 PIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-6-16**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: